US06060475
Lithium hydroxide monohydrate (87 mg) was added to a solution of N-isobutoxycarbonyl-2-[4-(2-[methoxycarbonyl]vinyl)phenyl]-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide (250 mg) in tetrahydrefuran (6.2 ml) followed by methanol (2.5 ml) and water (2.5 ml). The reaction mixture was stirred at ambient temperature for 18 hours then evaporated to dryness. The residue was dissolved in water (50 ml), washed with ethyl acetate (50 ml), acidified with 8% aqueous citric acid to pH 3-4 and extracted with ethyl acetate (100 ml). The organic layer was extracted with saturated sodium bicarbonate solution (50 ml) and the aqueous phase separated, acidified with 8% aqueous citric acid and extracted with ethyl acetate (3×30 ml). The combined organic extracts were dried (MgSO4) and evaporated to give 2-[4-(2-carboxyvinyl)phenyl]-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide (108 mg) as a solid, m.p. 233-235° C.: 1H NMR (d6 -DMSO): 2.2 (s, 3H), 3.8 (s, 3H), 6.55 (d, 1H), 7.35 (br s, 1H), 7.45 (d, 2H), 7.55-7.75 (m, 4H), 8.45 (dd, 1H), 8.8 (dd, 1H), 10.1 (br s, 1H); mass spectrum (+ve ESP) 427 (M+H)+.

reactant | Lithium hydroxide monohydrate | 87 mg | O.[OH-].[Li+]
reactant | N-isobutoxycarbonyl-2-[4-(2-[methoxycarbonyl]vinyl)phenyl]-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide | 250 mg | C(C(C)C)OC(=O)N(S(=O)(=O)C=1C(=NC=CC1)C1=CC=C(C=C1)C=CC(=O)OC)C1=NC=C(N=C1OC)C | C26H28N4O7S
reactant | methanol | 2.5 ml | CO | CH4O
solvent | water | 2.5 ml | O | H2O
product | 2-[4-(2-carboxyvinyl)phenyl]-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide | 108 mg | C(=O)(O)C=CC1=CC=C(C=C1)C1=NC=CC=C1S(=O)(=O)NC1=NC=C(N=C1OC)C | C20H18N4O5S
